US07220771B2
SYNTHESIS OF (4-AMINOPHENYL)-N-(3-PHENYL(1H-INDAZOL-5-YL))CARBOXAMIDE
To a solution of N-(1-acetyl-3-phenyl(1H-indazol-5-yl))(4-aminophenyl)carboxamide (200 mg, 0.664 mmol) in 0.3% ammonia in methanol (12 mL). After the reaction mixture was stirred at room temperature for 3 hours, the mixture was acidified with 5% HCl. The resulting precipitate was filtered and dried to give the title compound (200 mg, 92% yield). 1H NMR (DMSO-d6) δ 13.14 (br s, 1H), 9.84 (s, 1H), 8.52 (s, 1H), 7.95 (d, 2H), 7.75 (m, 3H), 7.54 (m, 3H), 7.39 (t, 1H), 5.74 (br, 2H); ES-MS (m/z) 329 [M+1]+.

reactant | N-(1-acetyl-3-phenyl(1H-indazol-5-yl))(4-aminophenyl)carboxamide | 0.664 mmol, 200 mg | C(C)(=O)C1(CC=CC=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)N | C22H20N4O2
reactant | HCl | Cl | ClH
solvent | ammonia | N | H3N
solvent | methanol | 12 mL | CO | CH4O
product | (4-AMINOPHENYL)-N-(3-PHENYL(1H-INDAZOL-5-YL))CARBOXAMIDE | 200 mg, 92% yield | NC1=CC=C(C=C1)C(=O)NC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C20H16N4O
